US06844351B1
N-[4-(1-Ethyl-propoxy) 6-methyl-2-(2,4,6-trimethyl-phenoxy)pyridin-3-yl]-succinamic acid
A mixture of 4-(1-ethyl-propoxy)-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ylamine (100 mg, 0.304 mmol), succinic anhydride 31 mg, 0.304 mmol) and triethylamine in methylene chloride was stirred at rt. overnight. The mixture was quenched with water, and extracted with methylene chloride. The organic layer was separated, dried and concentrated to give a solid. The title compound was isolated as a white crystal after silica gel column chromatography.

reactant | 4-(1-ethyl-propoxy)-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-ylamine | 0.304 mmol, 100 mg | C(C)C(CC)OC1=C(C(=NC=C1)OC1=C(C=C(C=C1C)C)C)NC | C20H28N2O2
reactant | succinic anhydride | 0.304 mmol, 31 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-(1-Ethyl-propoxy) 6-methyl-2-(2,4,6-trimethyl-phenoxy)pyridin-3-yl]-succinamic acid | C(C)C(CC)OC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)NC(CCC(=O)O)=O | C24H32N2O5
